US05026856
11.5 g of 2-benzyl-4-nitroisoindoline was dissolved in 150 ml of methanol and to the solution was added 1.5 g of 10% palladium on carbon. The mixture was stirred under a hydrogen gas stream under atmospheric pressure for one day at room temperature and for another 5 days at 40° C.. The catalyst was removed by filtration and the filtrate was concentrated. The residue was purified by a vacuum distillation (bath temperature: 150°-180° C., pressure: 0.1 mmHg) to obtain 3.74 g of 4-aminoisoindoline.

reactant | 2-benzyl-4-nitroisoindoline | 11.5 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)[N+](=O)[O-] | C15H14N2O2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 4-aminoisoindoline | 3.74 g | NC1=C2CNCC2=CC=C1 | C8H10N2
